US08865704B2
2-[trans-4-(4-Acetyl-piperazine-1-carbonyl)-cyclohexylmethyl]-4H-isoquinoline-1,3-dione
trans-4-(1,3-Dioxo-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-cyclo hexanecarboxylic acid (100 mg, 0.33 mmol) was dissolved in N,N-dimethyl acetamide (3 mL), HATU (125 mg, 0.33 mmol) and diisopropyl ethylamine (0.06 mL, 0.33 mmol) were added and the mixture was left stirring for 1 h. Then 1-acetylpiperazine (128 mg, 0.3 mmol) was added and the reaction stirred for 18 hours. The solvent was removed under reduced pressure and the residue was dissolved in 2 mL of DCM and washed with 2 mL of 0.4M Na2CO3 solution. The organic phase was collected and the solvent removed under reduced pressure. The crude was purified by SiO2 column, eluting with DCM-MeOH (97:3) and the fractions containing the desired product collected and further purified by prep HPLC. 42 mg of the title product were obtained (31% yield).

reactant | trans-4-(1,3-Dioxo-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-cyclo hexanecarboxylic acid | 0.33 mmol, 100 mg | O=C1N(C(CC2=CC=CC=C12)=O)C[C@@H]1CC[C@H](CC1)C(=O)O | C17H19NO4
reactant | HATU | 0.33 mmol, 125 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropyl ethylamine | 0.33 mmol, 0.06 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-acetylpiperazine | 0.3 mmol, 128 mg | C(C)(=O)N1CCNCC1 | C6H12N2O
solvent | N,N-dimethyl acetamide | 3 mL | CN(C(C)=O)C | C4H9NO
product | 2-[trans-4-(4-Acetyl-piperazine-1-carbonyl)-cyclohexylmethyl]-4H-isoquinoline-1,3-dione | 42 mg, 31% yield | C(C)(=O)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)CN1C(C2=CC=CC=C2CC1=O)=O | C23H29N3O4
